US04013621
To 17.6 grams of 4-nitroso-2,6-di-tert-butylphenol dissolved in 60 ml of 5N sodium hydroxide and 120 ml of water was added with stirring over a 30-minute period a solution of 52.2 grams of sodium hydrosulfite in 220 ml of water during which time the temperature rose to 53° C. After the addition was complete, stirring was continued for another 2.5 hours. The product formed was then rapidly collected by filtration, washed with 400 ml of water and dried in a vacuum desiccator over phosphorus pentoxide to yield 4-amino-2,6-di-tert-butylphenol, melting at 105°-108° C.

reactant | 4-nitroso-2,6-di-tert-butylphenol | 17.6 grams | N(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H21NO2
reactant | sodium hydrosulfite | 52.2 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | sodium hydroxide | 5N, 60 ml | [OH-].[Na+]
solvent | water | 220 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | 4-amino-2,6-di-tert-butylphenol | NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C14H23NO
